US04859671
Step (6) Preparation of 1-Chloro-2,7-naphthyridine
A pressure bottle, equipped with a magnetic stirrer, was charged with 1-hydroxy-2,7-naphthyridine (2.6 g, 17.8 mmol) and 100 mL of phosphorous oxychloride. The bottle was sealed and heated at 130° C. overnight. Upon cooling, the bottle was opened and the excess POCl3 was removed by evaporation in vacuo. The residue was treated with excess saturated Na2CO3 and extracted twice with CHCl3. The organic layer was washed with brine and dried (Na2SO4). Evaporation of the solvent afforded the product as a light brown solid (2.0 g, 68%, purity 90-95% based on NMR). The product was of suitable purity for use in the next step.

reactant | 1-hydroxy-2,7-naphthyridine | 17.8 mmol, 2.6 g | OC1=NC=CC2=CC=NC=C12 | C8H6N2O
reactant | phosphorous oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-2,7-naphthyridine | 2.0 g, 68% | ClC1=NC=CC2=CC=NC=C12 | C8H5ClN2
